US07696352B2
A mixture of 4-(azidomethyl)-1-(4-iodophenyl)-1H-pyrazole (530 mg, 1.63 mmol) and Ra—Ni (50% aq. slurry, 200 mg) in MeOH (3 mL) was hydrogenated under balloon H2 for 1 hr. It was filtered through celite. The filtrate was concentrated in vacuo to give (1-(4-iodophenyl)-1H-pyrazol-4-yl)methanamine (396 mg).

reactant | 4-(azidomethyl)-1-(4-iodophenyl)-1H-pyrazole | 1.63 mmol, 530 mg | N(=[N+]=[N-])CC=1C=NN(C1)C1=CC=C(C=C1)I | C10H8IN5
solvent | MeOH | 3 mL | CO | CH4O
catalyst | Ra—Ni | 200 mg | [Ni] | Ni
product | (1-(4-iodophenyl)-1H-pyrazol-4-yl)methanamine | 396 mg | IC1=CC=C(C=C1)N1N=CC(=C1)CN | C10H10IN3
